US07718693B2
D-glutamic acid (2.21 g, 15 mmol) was dissolved in 2N aqueous sodium hydroxide (15 ml, 30 mmol) at 0° C. and then treated with pyridine-2-carboxaldehyde (1.43 ml, 15 mmol). The mixture was stirred at room temperature for 45 minutes and then cooled to 0° C. and treated with sodium borohydride (0.189 g, 5 mmol). The mixture was allowed to warm to room temperature with stirring over 4 hrs then after washing twice with diethyl ether it was acidified to pH5-6. The aqueous layer was concentrated then azeotroped three times with toluene and then with a 1:1 ethanol:toluene mixture and finally with ethanol. The residue was then taken up in ethanol (50 ml) and refluxed for 8 hrs. Concentration gave an oil which when dried in vacuo gave 5-oxo-1-(2-pyridinylmethyl)proline (2.60 g) as a foam which was used without any further purification.

reactant | D-glutamic acid | 15 mmol, 2.21 g | N[C@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | sodium hydroxide | 30 mmol, 2N, 15 ml | [OH-].[Na+]
reactant | pyridine-2-carboxaldehyde | 15 mmol, 1.43 ml | N1=C(C=CC=C1)C=O | C6H5NO
reactant | sodium borohydride | 5 mmol, 0.189 g | [BH4-].[Na+]
product | 5-oxo-1-(2-pyridinylmethyl)proline | 2.60 g | O=C1CC[C@H](N1CC1=NC=CC=C1)C(=O)O | C11H12N2O3
